US06117365
N-(4-Hydroxy-3-methoxybenzyl)-3,4-dihydroxyphenylacetamide (15)
N-Succinimidyl 3,4-bis(methoxycarbonyloxy)-phenylacetate (500 mg, 1.76 mmol) and 4-hydroxy-3-methoxybenzylamine hydrochloride were dissolved in 20 ml of 1,4-dioxane and 20 ml of water under nitrogen, and sodium hydrogencarbonate (148 mg, 1.76 mmol) was added. The mixture was heated at 80° C. for 2 h, treated with further sodium hydrogen carbonate (325 mg, 3.87 mmol), stirred for a further 1 h at 80° C. and left to cool. The orange-red mixture was acidified using hydrochloric acid (5%) and extracted with ethyl acetate. The organic phase was washed with saturated NaCl solution, dried over Na2SO4 and filtered, and the filtrate was evaporated under reduced pressure. The residue was purified by chromatography on silica gel using the eluent ethyl acetate. Yield of N-(4-hydroxy-3-methoxybenzyl)-3,4-dihydroxyphenylacetamide 340 mg (63% of theory).

reactant | 4-hydroxy-3-methoxybenzylamine hydrochloride | Cl.OC1=C(C=C(CN)C=C1)OC
reactant | water | 20 ml | O | H2O
reactant | sodium hydrogencarbonate | 1.76 mmol, 148 mg | C(O)([O-])=O.[Na+]
reactant | sodium hydrogen carbonate | 3.87 mmol, 325 mg | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-(4-Hydroxy-3-methoxybenzyl)-3,4-dihydroxyphenylacetamide | OC1=C(C=C(CNC(CC2=CC(=C(C=C2)O)O)=O)C=C1)OC | C16H17NO5
